US04910212
A suspension of (methoxymethyl)triphenylphosphonium chloride (25.7 g) in diethyl ether (400 ml) was stirred under an argon atmosphere and cooled in an ice-bath while a solution of n-butyl-lithium in hexane (1.6M, 46 ml) was added slowly over 10 minutes. The reaction mixture was then stirred at that temperature for 1 hour. A solution of 6-methoxy-2-(4-methoxyphenyl)-2-methyltetralone (8.9 g ) in diethyl ether 150 ml) was added to the reaction, and it was then stirred at room temperature for 16 h, saturated ammonium chloride solution (300 ml) was added to the reaction mixture and the organic layer was separated. The aqueous layer was extracted twice with diethyl ether (200 ml). The organic extracts were combined, dried and evaporated to dryness. The resulting gum was subjected to flash column chromatography on silica (K60) using toluene as eluting solvent to give 6-methoxy-1-methoxymethylene-2-(4-methoxyphenyl)-2-methylnaphthalene as a colourless oil.

reactant | (methoxymethyl)triphenylphosphonium chloride | 25.7 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | 6-methoxy-2-(4-methoxyphenyl)-2-methyltetralone | 8.9 g | COC=1C=C2CCC(C(C2=CC1)=O)(C)C1=CC=C(C=C1)OC | C19H20O3
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | hexane | 1.6M, 46 ml | CCCCCC | C6H14
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 6-methoxy-1-methoxymethylene-2-(4-methoxyphenyl)-2-methylnaphthalene | COC=1C=C2C=CC(C(C2=CC1)=COC)(C)C1=CC=C(C=C1)OC | C21H22O3
